US04071627
A mixture of 3.5 g of 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one, dioxane and N-methyl-N-(trichloromethylthio)carbamoyl fluoride (4.5 g) was charged to a stirred flask and 2.1 g of triethylamine was added dropwise at 30° C, over a 2-minute period. The reaction mixture was stirred overnight at room temperature. The reaction mixture was then added to cold water and stirred for 10 minutes. The crystalline solid was filtered, washed thoroughly with water and dried overnight. After drying the crude product was recrystallized from isopropanol to yield 3 g of 2-[O-(N-methyl-N-trichloromethanesulfenylcarbamoyl)oximino]-3,3-dimethyltetrahydro-1,4-thiazin-5-one, m.p. 189°-190° C. The nmr spectrum of this material was consistent with its proposed structure.

reactant | 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 3.5 g | N(O)=C1SCC(NC1(C)C)=O | C6H10N2O2S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | N-methyl-N-(trichloromethylthio)carbamoyl fluoride | 4.5 g | CN(C(=O)F)SC(Cl)(Cl)Cl | C3H3Cl3FNOS
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-[O-(N-methyl-N-trichloromethanesulfenylcarbamoyl)oximino]-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 3 g | CN(C(=O)ON=C1SCC(NC1(C)C)=O)SC(Cl)(Cl)Cl | C9H12Cl3N3O3S2
